US05616601
To a mixture of 4-chlorophenol (6.1 g, 47.4 mmol) and potassium carbonate (13.1 g, 94.7 mmol) in acetone (200 mL), 2,3-dichloropropene (6.6 mL, 71 mmol) was added. After heating to reflux the reaction mixture for 48 hours, the reaction mixture was cooled and filtered. The residue was washed with more acetone and the combined filtrates were concentrated in vacuo. The crude pale brown liquid (11.5 g) was chromatographed (silica gel, hexane/ethyl acetate, 85/15) to give 1-(4-chlorophenoxy)-2-chloro-2-propene (8.9 g, 98%) as a white liquid: Anal. Calc'd. for C9H8OCl2 : C, 53.23, H, 3.97. Found: C, 53.09, H, 3.95.

reactant | 4-chlorophenol | 47.4 mmol, 6.1 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 94.7 mmol, 13.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichloropropene | 71 mmol, 6.6 mL | ClC(=C)CCl | C3H4Cl2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 1-(4-chlorophenoxy)-2-chloro-2-propene | 8.9 g, 98% | ClC1=CC=C(OCC(=C)Cl)C=C1 | C9H8Cl2O
